US05081271
4-[3-(3,5-Bistrimethylgermylphenyl)-3-oxo-1-propenyl]benzoic Acid
3',5'-Bis(trimethylgermyl)acetophenone 163 mg (0.46 mmol) and 96 mg (0.58 mmol) of methyl 4-formylbenzoate was dissolved in 4 ml of a mixture of isopropanol and tetrahydrofuran (1:1). To the mixture was added 2.5 ml of 0.75N aqueous potassium hydroxide solution with stirring and the mixture was stirred at room temperature overnight. The reaction mixture was adjusted to pH3.8 with 0.2N hydrochloric acid and extracted with AcOEt. The extract was evaporated. The residue was purified by column chromatography on silicagel [eluent: methylene chloride-MeOH (10:1)] and recrystallized from a mixture of methylene chloride, MeOH and n-hexane to give 120 mg of yellow prisms, m.p.194°-195.5° C. (dec.).

reactant | 3',5'-Bis(trimethylgermyl)acetophenone | 0.46 mmol, 163 mg | C[Ge](C=1C=C(C=C(C1)[Ge](C)(C)C)C(C)=O)(C)C | C14H24Ge2O
reactant | methyl 4-formylbenzoate | 0.58 mmol, 96 mg | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | potassium hydroxide | 0.75N, 2.5 ml | [OH-].[K+]
reactant | hydrochloric acid | 0.2N | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[3-(3,5-Bistrimethylgermylphenyl)-3-oxo-1-propenyl]benzoic Acid | 120 mg | C[Ge](C=1C=C(C=C(C1)[Ge](C)(C)C)C(C=CC1=CC=C(C(=O)O)C=C1)=O)(C)C | C22H28Ge2O3
